US06638929B2
To 2.5 mL of dry tetrahydrofuran at −78° C. is added 1.8 mL of 2.5 M n-butyllithium (4.4 mmol). Then 0.24 mL of dry acetonitrile in 4.5 mL of dry tetrahydrofuran is added dropwise over 10 minutes. This is stirred and additional 15 minutes at −78° C., then the ethyl 6-(2-chloroethoxy)-3-{[(E)-(dimethylamino)methylidene]-amino}-7-methoxy-2-naphthoate and ethyl 7-(2-chloroethoxy)-3-{[(E)-(dimethylamino)methylidene]amino}-6-methoxy-2-naphthoate (1:1 mixture) is dissolved in 3 mL of tetrahydrofuran and added dropwise over 15 minutes. The reaction mixture is stirred for 30 minutes at −78° C., then quenched with 0.57 mL of glacial acetic acid, and warmed to room temperature. To the yellow mixture is added 10 mL of water. The solids are filtered, washed with water and dried to give 0.502 g of 8-(2-chloroethoxy)-7-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile and 7-(2-chloroethoxy)-8-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile (1:1 mixture) as a yellow green solid (76%), m.p. 260-73° C. dec.

reactant | n-butyllithium | 4.4 mmol, 2.5 M, 1.8 mL | C(CCC)[Li]
reactant | acetonitrile | 0.24 mL | C(C)#N | C2H3N
reactant | ethyl 6-(2-chloroethoxy)-3-{[(E)-(dimethylamino)methylidene]-amino}-7-methoxy-2-naphthoate | ClCCOC=1C=C2C=C(C(=CC2=CC1OC)C(=O)OCC)/N=C/N(C)C | C19H23ClN2O4
reactant | ethyl 7-(2-chloroethoxy)-3-{[(E)-(dimethylamino)methylidene]amino}-6-methoxy-2-naphthoate | ClCCOC1=C(C=C2C=C(C(=CC2=C1)C(=O)OCC)/N=C/N(C)C)OC | C19H23ClN2O4
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 8-(2-chloroethoxy)-7-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | 0.502 g | ClCCOC1=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C=C1OC | C17H13ClN2O3
